US07671043B2
7A. 3-{4-[5(4-Isobutyl-phenyl)-[1,2,4]oxadiazole-3-yl]-benzylamino}-cis-cyclobutanecarboxylic acid tert-butyl ester
A solution of 3-cis-amino-cylcobutanecarboxylic acid tert-butyl ester (3.78 g, 19.6 mmol), triethylamine (4.0 mL, 29.4 mmol) and THF (100 mL) was added to a solution of 4-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-benzaldehyde (6.0 g, 19.6 mmol) in acetic acid/THF (1:10, 100 mL) and stirred at room temperature for 1 hour. Sodium triacetoxyborohydride (8.06 g, 39.2 mmol) was added to the reaction mixture, stirred at room temperature for 12 hours, treated with methanol (50.0 mL) and concentrated in vacuo. The resulting residue was taken up in dichloromethane, washed sequentially with brine, saturated NaHCO3 and brine, dried (Na2SO4), filtered and concentrated in vacuo. Purification by flash chromatography (silica, 1:9-1:1 EtOAc:hexanes) provided the title compound (4.0 g, 44% yield) as a solid.

reactant | triethylamine | 29.4 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | 4-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-benzaldehyde | 19.6 mmol, 6.0 g | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C19H18N2O2
reactant | Sodium triacetoxyborohydride | 39.2 mmol, 8.06 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid THF | 100 mL | C(C)(=O)O.C1CCOC1
solvent | methanol | 50.0 mL | CO | CH4O
product | 3-{4-[5(4-Isobutyl-phenyl)-[1,2,4]oxadiazole-3-yl]-benzylamino}-cis-cyclobutanecarboxylic acid tert-butyl ester | 4.0 g, 44% yield | C(C)(C)(C)OC(=O)[C@@H]1C[C@@H](C1)NCC1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C | C28H35N3O3
